US09126981B2
Synthesis of 2-(1-allyl-2-(benzylcarbamoyl)hydrazinyl)-2-methylpropanoic Acid (Compound VI-4)
To a solution of ethyl 2-(1-allyl-2-(benzylcarbamoyl)hydrazinyl)-2-methylpropanoate (Compound V-1) (958.2 mg, 3.0 mmol) in tetrahydrofuran/methanol/water (2:3:1, 15 ml), lithium hydroxide monohydrate (251.8 mg, 6.0 mmol) was added and the mixture was stirred at room temperature for 3 hr. The reaction mixture was diluted with water (25 ml) and washed with ether (25 ml). The aqueous layer was acidified with 10%-citric acid (15 ml) and extracted with chloroform (30 ml). The organic layer was washed with brine (25 ml) and dried over magnesium sulfate and then filtered. The filtrate was concentrated in vacuo to obtain the title compound (724 mg, 83%).

reactant | ethyl 2-(1-allyl-2-(benzylcarbamoyl)hydrazinyl)-2-methylpropanoate | 3.0 mmol, 958.2 mg | C(C=C)N(NC(NCC1=CC=CC=C1)=O)C(C(=O)OCC)(C)C | C17H25N3O3
reactant | lithium hydroxide monohydrate | 6.0 mmol, 251.8 mg | O.[OH-].[Li+]
solvent | tetrahydrofuran methanol water | 15 ml | O1CCCC1.CO.O
solvent | water | 25 ml | O | H2O
product | 2-(1-allyl-2-(benzylcarbamoyl)hydrazinyl)-2-methylpropanoic Acid | 724 mg, 83% | C(C=C)N(NC(NCC1=CC=CC=C1)=O)C(C(=O)O)(C)C | C15H21N3O3
